US07956070B2
Step 2: Ethyl 6-oxo-2-(pentafluoroethyl)-1,6-dihydropyridine-3-carboxylate
A suspension of ethyl 6-oxo-2-(pentafluoroethyl)-1,4,5,6-tetrahydropyridine-3-carboxylate (0.690 g) and N-bromosuccinimide (0.427 g) in carbon tetrachloride (5 mL) was heated at 80° C. for 20 h. The reaction mixture was concentrated in vacuo and subjected to flash column chromatography (eluent 1:3 ethyl acetate/isohexane) to yield a colourless solid (0.30 g).

reactant | ethyl 6-oxo-2-(pentafluoroethyl)-1,4,5,6-tetrahydropyridine-3-carboxylate | 0.690 g | O=C1CCC(=C(N1)C(C(F)(F)F)(F)F)C(=O)OCC | C10H10F5NO3
reactant | N-bromosuccinimide | 0.427 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 6-oxo-2-(pentafluoroethyl)-1,6-dihydropyridine-3-carboxylate | 0.30 g | O=C1C=CC(=C(N1)C(C(F)(F)F)(F)F)C(=O)OCC | C10H8F5NO3
